US07737161B2
N-(5-methylpyridine-2-yl)-3-({[trans-4-(3-oxomorpholin-4-yl)cyclohexyl]carbonyl}amino)furo[3,2-b]pyridine-2-carboxamide
2-Amino-5-methylpyridine (81 mg) is dissolved in chloroform (5 ml). After adding 0.98 M trimethyl aluminum-hexane solution (763 μl) under ice-cooling, the reaction solution is stirred under ice-cooling for 10 minutes, and then at room temperature for 0.5 hours. To the resulting reaction solution is added methyl 3-({[trans-4-(3-oxomorpholin-4-yl)cyclohexyl]carbonyl}amino)furo[3,2-b]pyridine-2-carboxylate (150 mg) obtained in Reference Example 79, and the mixture is stirred at room temperature for 2 hours and at 50° C. under heating for 5 hours. To the reaction solution is added 10% hydrochloric acid (3 ml) under ice-cooling, and the mixture is stirred at room temperature for 0.5 hours. The reaction solution is then neutralized by adding saturated aqueous sodium hydrogen carbonate solution, and extracted with chloroform. The organic layer is washed with saturated brine, dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by NH-silica gel column chromatography (eluent: ethyl acetate followed by ethyl acetate/methanol=10/1). The resulting solid is suspended in diethyl ether, and collected by filtration to give the title compound (110 mg).

reactant | 2-Amino-5-methylpyridine | 81 mg | NC1=NC=C(C=C1)C | C6H8N2
reactant | trimethyl aluminum hexane | 0.98 M, 763 μl | C[Al](C)C.CCCCCC
reactant | methyl 3-({[trans-4-(3-oxomorpholin-4-yl)cyclohexyl]carbonyl}amino)furo[3,2-b]pyridine-2-carboxylate | 150 mg | O=C1N(CCOC1)[C@@H]1CC[C@H](CC1)C(=O)NC1=C(OC=2C1=NC=CC2)C(=O)OC | C20H23N3O6
reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(5-methylpyridine-2-yl)-3-({[trans-4-(3-oxomorpholin-4-yl)cyclohexyl]carbonyl}amino)furo[3,2-b]pyridine-2-carboxamide | 110 mg | CC=1C=CC(=NC1)NC(=O)C1=C(C2=NC=CC=C2O1)NC(=O)[C@@H]1CC[C@H](CC1)N1C(COCC1)=O | C25H27N5O5
